US05463069
The N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)cyanamide (2.61 g) was dissolved in methyl isobutyl ketone (13.01 g), to which ammonium sulfide solution, yellow (8.12 g) having an S content of 6% was added dropwise at room temperature with stirring. The mixture was heated to 50° C. and stirred at the same temperature for 9 hours. After cooling to room temperature, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, which afforded 2.67 g of N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea as a solid (90% yield in appearance). The percentage area of gas chromatography was 85%.

reactant | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)cyanamide | 2.61 g | FC(C=1C=C(C=CC1)N(C#N)CC(=C)Cl)(F)F | C11H8ClF3N2
reactant | water | O | H2O
reactant | ammonium sulfide | [NH4+]=S
solvent | methyl isobutyl ketone | 13.01 g | C(C(C)C)C(=O)C | C6H12O
product | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea | 2.67 g, 90% yield | FC(C=1C=C(C=CC1)N(C(=S)N)CC(=C)Cl)(F)F | C11H10ClF3N2S
